US04876354
34 ml (53 mmol) of 1,55 molar n-butyllithium/hexane solution were added dropwise to a solution of 6.87 g (26 mmol) of N-(4-benzyloxybenzyl)-imidazole and 3.03 g (26 mmol) of TMEDA in 100 ml of absolute THF at about -70° C., the mixture was stirred for 20 minutes at -70° C., a solution of 4.74 g of benzophenone in 40 ml of absolute THF was then added dropwise at -70° C., stirring was continued for 30 minutes at about -70° C. and for 1.5 hours at -70° C. to room temperature, and 350 ml of water were added, while cooling. The mixture was extracted with CH2Cl2. The residue (12 g) from the CH2Cl2 extract was chromatographed over a silica gel S/CH2Cl2 column (diameter 2.1 cm, height 55 cm) as described in Example 102. Fractions which were shown by thin layer chromatography to have a high concentration of the desired substance were combined and recrystallized from ethyl acetate/diisopropyl ether. 1.09 g (=16.4% yield) of pure 2-(4-benzyloxyphenyl)-2-(1-imidazolyl)-1,1-diphenylethanol of melting point 204° C. were obtained in this manner.

reactant | n-butyllithium hexane | 53 mmol, 1,55 molar, 34 ml | C(CCC)[Li].CCCCCC
reactant | N-(4-benzyloxybenzyl)-imidazole | 26 mmol, 6.87 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C=NC=C2)C=C1 | C17H16N2O
reactant | TMEDA | 26 mmol, 3.03 g | CN(C)CCN(C)C | C6H16N2
reactant | benzophenone | 4.74 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 350 ml | O | H2O
product | 2-(4-benzyloxyphenyl)-2-(1-imidazolyl)-1,1-diphenylethanol | 1.09 g, 16.4% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)N1C=NC=C1 | C30H26N2O2
